US04024175
According to Example 7, 1-aminomethyl-1-cyclopentane-acetic acid hydrochloride is esterified with n-butanol to give n-butyl 1-aminomethyl-1-cyclopentane-acetate hydrochloride; m.p. 50° C.

reactant | 1-aminomethyl-1-cyclopentane-acetic acid hydrochloride | Cl.NCC1(CCCC1)CC(=O)O
solvent | n-butanol | C(CCC)O | C4H10O
product | n-butyl 1-aminomethyl-1-cyclopentane-acetate hydrochloride | Cl.NCC1(CCCC1)CC(=O)OCCCC | InChI=1S/C12H23NO2.ClH/c1-2-3-8-15-11(14)9-12(10-13)6-4-5-7-12;/h2-10,13H2,1H3;1H
